US09315438B2
(3) Preparation of 4-bromo-1-chloro-2-(4-methoxybenzyl)benzene
(5-bromo-2-chlorophenyl)(4-methoxyphenyl)methanone (265 g, 0.81 mol) was dissolved in methylene chloride (515 mL) and acetonitrile (1030 mL). To the resulting mixture was added triethyl silane (352 mL, 2.22 mol). Then to the resulting mixture was added dropwise boron trifluoride-diethyl etherate (273 mL, 2.22 mol) at 0° C. under a nitrogen protection. After the completion of dropwise addition, the resulting mixture was stirred for 20 min, warmed up to room temperature and reacted for 2 hr. TLC indicated the completion of reaction. To the reaction mixture were added methyl tert-butyl ether (1.5 L) and a saturated sodium bicarbonate solution (1.5 L). The mixture was stirred for 30 mins. The organic phase was separated off, washed with a saturated sodium bicarbonate solution for four times and with a saturated sodium chloride solution for one time, dried over anhydrous sodium sulphate, and evaporated by rotation to produce an oily substance. To the oily substance was added ethanol. The resulting mixture was stirred at room temperature for 30 mins and in an ice bath for 30 mins. A great quantity of solid was separated out and filtered. The filter cake was dried to produce 226 g of a product in a yield of 89%.

reactant | (5-bromo-2-chlorophenyl)(4-methoxyphenyl)methanone | 0.81 mol, 265 g | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)OC)Cl | C14H10BrClO2
reactant | triethyl silane | 2.22 mol, 352 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | methyl tert-butyl ether | 1.5 L | C(C)(C)(C)OC | C5H12O
reactant | sodium bicarbonate | 1.5 L | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 515 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 1030 mL | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
product | 4-bromo-1-chloro-2-(4-methoxybenzyl)benzene | 226 g, yield of 89% | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OC | C14H12BrClO
